US05589478
A mixture of 4-tert-butyl-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (1.00 g), trimethylsilylacetylene (330 mg), bis(triphenylphosphine)palladium (II) chloride (58 mg), copper (I) iodide (32 mg), triethylamine (420 mg) and dimethylformamide (5 ml) is stirred at 50° C. for three hours under argon atmosphere, and cooled to room temperature. The mixture is diluted with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The organic layer is washed with water and brine, and dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=40:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-{6-[2-(5-trimethylsilylethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (837 mg) as colorless crystalline powder.

reactant | 4-tert-butyl-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 1.00 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)Br | C27H28BrN5O4S
reactant | trimethylsilylacetylene | 330 mg | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 420 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | bis(triphenylphosphine)palladium (II) chloride | 58 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 32 mg | [Cu]I
product | 4-tert-butyl-N-{6-[2-(5-trimethylsilylethynylpyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 837 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C#C[Si](C)(C)C | C32H37N5O4SSi
